US09034866B2
Synthesis of 10-bromo-3-cyclopropyl-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide
A solution of 10-bromo-9-fluoro-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide (2.0 g, 4.3 mmol) in 15 mL dry DMA with PdCl2-[P(o-Tol)3]2 (210 mg, 0.26 mmol) was sparged with nitrogen gas then treated with a solution of cyclopropylzinc bromide (19 mL, 9.5 mmol, 0.5 M in THF) over 10 min. The mixture was heated at 50° C. for 40 min at which time 10 mL of additional zinc reagent (5 mmols, 1.16 eq) was added at 50° C. with sparging nitrogen. After 15 min, an additional 6 mL of zinc reagent was added. The mixture was cooled to room temp and treated with ˜5 mL of ammonium chloride. The mixture was diluted with water and extracted with ethyl acetate. The combined organics were washed with brine, dried over sodium sulfate and concentrated by rotoevaporation. The mixture was dissolved in DMF and purified by RPHPLC. The resultant solid was used in subsequent operations without further purification.

reactant | 10-bromo-9-fluoro-3-iodo-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | 4.3 mmol, 2.0 g | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)I)C1)F | C14H10BrFIN3O
reactant | cyclopropylzinc bromide | 9.5 mmol, 0.5 M, 19 mL | [Br-].C1(CC1)[Zn+]
reactant | ammonium chloride | ˜5 mL | [Cl-].[NH4+]
solvent | DMA | 15 mL | CC(=O)N(C)C | C4H9NO
solvent | water | O | H2O
catalyst | zinc | 5 mmols, 10 mL, 1.16 eq | [Zn] | Zn
catalyst | zinc | 6 mL | [Zn] | Zn
product | 10-bromo-3-cyclopropyl-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxamide | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)N)C3CC3)C1)F | C17H15BrFN3O
